US08445505B2
To a solution of 2-(2,5-dimethyl-4-nitrophenyl)-1H-imidazole (50 mg, 0.23 mmol) in DMF (2 mL) was added NaH (11 mg, 0.46 mmol) at 0° C. After stirring for 15 min, iodomethane (65 mg, 0.46 mmol) was added dropwise. The mixture was stirred at 0° C. for 1 hr, and quenched by adding saturated ammonium chloride aqueous solution. The mixture was extracted with ethyl acetate (3×15 mL). The organic layer was washed with brine and dried over sodium sulfate. After concentration, the residue was dissolved in methanol (10 mL). To the solution was added Pd/C (10%). The reaction mixture was degassed and purged with H2 for several times and stirred under 1 atm. hydrogen gas overnight. The mixture was filtered and concentrated to afford 2,5-dimethyl-4-(1-methyl-1H-imidazol-2-yl)aniline. ESMS m/z 202 (M+H+).

reactant | 2-(2,5-dimethyl-4-nitrophenyl)-1H-imidazole | 0.23 mmol, 50 mg | CC1=C(C=C(C(=C1)[N+](=O)[O-])C)C=1NC=CN1 | C11H11N3O2
reactant | NaH | 0.46 mmol, 11 mg | [H-].[Na+]
reactant | iodomethane | 0.46 mmol, 65 mg | IC | CH3I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2,5-dimethyl-4-(1-methyl-1H-imidazol-2-yl)aniline | CC1=C(N)C=C(C(=C1)C=1N(C=CN1)C)C | C12H15N3
